US08486979B2
3-(pyridin-3-yl)-5-(1H-pyrrolo[2,3-b]pyridin-5-yl)-1,2,4-oxadiazole
The title compound was prepared according to Method C using 1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid (Adesis) and N′-hydroxynicotinimidamide (Tyger). 1H NMR (300 MHz, DMSO-d6) δ 6.71 (d, J=3.4 Hz, 1 H), 7.66 (ddd, J=7.9, 4.8, 0.8 Hz, 1 H), 7.70 (d, J=3.4 Hz, 1 H), 8.47 (dt, J=8.1, 1.9 Hz, 1 H), 8.78-8.86 (m, 2 H), 9.05 (d, J=2.0 Hz, 1 H), 9.28 (dd, J=2.2, 0.8 Hz, 1 H) ppm; MS (DCI/NH3) m/z 264 (M+H)+.

reactant | 1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid | N1C=CC=2C1=NC=C(C2)C(=O)O | C8H6N2O2
reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | NH3 | N | H3N
product | 3-(pyridin-3-yl)-5-(1H-pyrrolo[2,3-b]pyridin-5-yl)-1,2,4-oxadiazole | N1=CC(=CC=C1)C1=NOC(=N1)C=1C=C2C(=NC1)NC=C2 | C14H9N5O
